US05576359
Using methyl methacrylate (35.0 g, 0.35 mole), glycidyl methacrylate (28.4 g, 0.2 mole) and 2-hydroxyethyl methacrylate (13.0 g, 0.1 mole), the polymerization was carried out in the same manner as described in Synthesis Example 12, (1), and the precipitate was filtered and dried under reduced pressure to give 70.3 g of poly(methyl methacrylate/glycidyl methacrylate/2-hydroxyethyl methacrylate) as white powders having Mw 35000 and Mn 192000 (GPC with polystyrene calibration).

reactant | methyl methacrylate | 0.35 mole, 35.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | glycidyl methacrylate | 0.2 mole, 28.4 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | 2-hydroxyethyl methacrylate | 0.1 mole, 13.0 g | C(C(=C)C)(=O)OCCO | C6H10O3
product | methyl methacrylate glycidyl methacrylate 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)OCC1CO1.C(C(=C)C)(=O)OCCO | InChI=1S/C7H10O3.C6H10O3.C5H8O2/c1-5(2)7(8)10-4-6-3-9-6;1-5(2)6(8)9-4-3-7;1-4(2)5(6)7-3/h6H,1,3-4H2,2H3;7H,1,3-4H2,2H3;1H2,2-3H3
